US06277991B1
(8-Naphthalen-1-ylmethyl-4-oxo-1-phenyl-1.3,8-triaza-spiro[4.5]dec-3-yl)-acetylglycine methyl ester
Wang resin loaded with Fmoc-glycine (88 mg, 0.045 mmol) was placed in a Teflon tube equipped with a frit on a mechanical shaker. The resin was allowed to swell in dimethyl formamide (1.5 ml) for 1 h. The solvent was removed by suction and the resin was agitated with 20% piperidine in N,N-dimethylformamide (1.5 ml) for 30 minutes. The solution was removed by suction and the resin was washed with N,N-dimethylformamide (3×1.5 ml). To a solution of (8-naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl)-acetic acid (0.0773 g, 0.18 mmol) in dimethyl formamide (1.6 ml), diisopropylcarbodiimide (29 μl, 0.18 mmol) and 1-hydroxy-1H-benzotriazol (0.0243 g, 0.18 mmol) were added and the mixture was stirred at room temperature for 0.5 h. The resulting solution and diisopropylethylamine (31 μl, 0.18 mmol) were added to the above resin and this was shaken at room temperature ovemight. The resin was filtered and washed with dimethylformamide (2×1.5 ml), dichloromethane (4×1.5 ml), methanol (2×1.5 ml) and tetrahydrofuran/methanol 4:1 (2×1.5 ml). A solution of sodium methoxide (0.009 mmol) in a mixture of tetrahydrofuran/methanol 4:1 (2 ml) was added to the resin and the suspension was agitated at 50 ° C. for 16 h. The mixture was neutralized by addition of a solution of acetic acid (0.01 mmol) in a mixture of tetrahydrofuran/methanol 4:1 (1 ml), the solution was drained and the resin was washed with tetrahydrofuran (1 ml). The combined filtrates were concentrated in vacuo to afford the title compound.

reactant | Fmoc-glycine | 0.045 mmol, 88 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC(=O)O | C17H15NO4
reactant | (8-naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl)-acetic acid | 0.18 mmol, 0.0773 g | C1(=CC=CC2=CC=CC=C12)CN1CCC2(C(N(CN2C2=CC=CC=C2)CC(=O)O)=O)CC1 | C26H27N3O3
reactant | diisopropylcarbodiimide | 0.18 mmol, 29 μl | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 1-hydroxy-1H-benzotriazol | 0.18 mmol, 0.0243 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.18 mmol, 31 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium methoxide | 0.009 mmol | C[O-].[Na+]
reactant | acetic acid | 0.01 mmol | C(C)(=O)O | C2H4O2
solvent | dimethyl formamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 1.6 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran methanol | 2 ml | O1CCCC1.CO
solvent | tetrahydrofuran methanol | 1 ml | O1CCCC1.CO
product | (8-Naphthalen-1-ylmethyl-4-oxo-1-phenyl-1.3,8-triaza-spiro[4.5]dec-3-yl)-acetylglycine methyl ester | COC(CN(C(C)=O)N1CN(C2(C1=O)CCN(CC2)CC2=CC=CC1=CC=CC=C21)C2=CC=CC=C2)=O | C29H32N4O4
